US04223039
(a) 3-(4-Chlorobenzamido)-benzophenone
With agitation, 4.9 g 4-chlorobenzoyl chloride are added bit by bit to a solution, cooled to 5° C., of 5 g 3-amino-benzophenone in 60 ml dimethylacetamide, in the presence of 4.9 g triethylamine.

reactant | 4-chlorobenzoyl chloride | 4.9 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 3-amino-benzophenone | 5 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
reactant | triethylamine | 4.9 g | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | 3-(4-Chlorobenzamido)-benzophenone | ClC1=CC=C(C(=O)NC=2C=C(C(=O)C3=CC=CC=C3)C=CC2)C=C1 | C20H14ClNO2
